US05180824
Synthesis of 6-Azido-2-fluoro-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)purine
A solution of 2,3,5-tri-O-benzyl-1-α-D-arabinofuranosylchloride (freshly prepared from 1.9 g of 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose), N,N-diisopropylethylamine (0.58 mL) and 6-azido-2-fluoropurine (0.50 g) in 10 mL of anhydrous 1,2-dichloroethane was heated at reflux overnight. Additional N,N-diisopropylethylamine (0.26 mL) was added and heating was continued for an additional 24 hours. The mixture was cooled to ambient temperature and diluted with dichloromethane (60 mL) and washed sequentially with 10% aqueous sodium hydroxide (NaOH), water, 1N phosphoric acid (H3PO4), saturated NaCl and then dried over MgSO4 along with decolorizing carbon. The dried solution was filtered through celite and concentrated in vacuo. The residue was purified by silica gel chromatography with gradient elution from 3:1 Hexane:ethyl acetate to 100% ethyl acetate to obtain 0.40 g of the title compound as a colorless oil; IR (neat) 3031, 2922, 2867, 2126, 1608 cm-1 ; 1H NMR (DMSO-d6, 360 MHz) δ3.65-3.75 (m, 2H), 4.16 (q, J=5 Hz, 1H), 4.22 (d, J=11.8 Hz), 4.42 (t, J=5.5 Hz, 1H), 4.47 (d, J=11.8 Hz, 1H), 4.51 (s, 2H), 4.58 (t, J=5.5 Hz, 1H), 4.62 (d, J=12.0 Hz, 1H), 4.68 (d, J=12.0 Hz, 1H), 6.41 (d, J=5.5 Hz, 1H), 6.9-6.95 (m, 2H) 7.1-7.2 (m, 3H), 7.25-7.4 (m, 10H), 8.48 (s, 1H); UV (MeOH) λmax, 286 nm; MS (EI+, m/z) 582 (M+H)+.

reactant | 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose | 1.9 g | C(C1=CC=CC=C1)O[C@@H]1C(OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C33H31NO8
reactant | N,N-diisopropylethylamine | 0.58 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-azido-2-fluoropurine | 0.50 g | N(=[N+]=[N-])C1=C2NC=NC2=NC(=N1)F | C5H2FN7
reactant | N,N-diisopropylethylamine | 0.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6-Azido-2-fluoro-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)purine | 0.40 g | N(=[N+]=[N-])C1=C2N=CN(C2=NC(=N1)F)[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C31H28FN7O4
